US07217722B2
N-(1H-5-Indazolyl)-N-(1-pentyl-4-piperidyl)amine
4-Piperidone hydrochloride monohydrate (77 mg) and valeraldehyde (43 mg) were dissolved in methanol (1 ml), and sodium triacetoxyborohydride (106 mg) was added to the solution. The reaction mixture was stirred at room temperature for 18 hr. Further, 5-aminoindazole (54 mg) was added thereto. The mixture was stirred for 30 min, and a borane-pyridine complex (0.05 ml) was added thereto. The reaction mixture was stirred at room temperature for 18 hr. A saturated aqueous sodium hydrogencarbonate solution (1 ml) was then added, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC [g chloroform/methanol] to give the title compound (2 mg).

reactant | 4-Piperidone hydrochloride monohydrate | 77 mg | O.Cl.N1CCC(CC1)=O
reactant | valeraldehyde | 43 mg | C(CCCC)=O | C5H10O
reactant | sodium triacetoxyborohydride | 106 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 5-aminoindazole | 54 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | sodium hydrogencarbonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | N-(1H-5-Indazolyl)-N-(1-pentyl-4-piperidyl)amine | 2 mg | N1N=CC2=CC(=CC=C12)NC1CCN(CC1)CCCCC | C17H26N4
